US08252935B2
a) 2-{5-[1-(3,4-Difluoro-phenyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (110 mg, 0.25 mmol) in dimethylsulfoxide (0.2 ml) was added L-proline (4.4 mg, 0.04 mmol), potassium carbonate (52.5 mg, 0.38 mmol), and copper iodine (3.6 mg, 0.02 mmol). The reaction was degassed under nitrogen and 1,2-difluoro-4-iodobenzene (45.4 mg, 0.19 mmol), was added, the reaction was again degassed and then heated to 90° C. The reaction was stirred over 48 hours. The reaction was partitioned between EtOAc/H2O, washed with H2O (3×) and brine (1×). Purification by silica gel chromatography (Isco) gave the desired product, (39 mg, 37%). Calcd for C32H34F5NO2 (M+H) 559.60, Found 560.4.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.25 mmol, 110 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | L-proline | 0.04 mmol, 4.4 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.38 mmol, 52.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-difluoro-4-iodobenzene | 0.19 mmol, 45.4 mg | FC1=C(C=C(C=C1)I)F | C6H3F2I
solvent | dimethylsulfoxide | 0.2 ml | CS(=O)C | C2H6OS
catalyst | copper iodine | 0.02 mmol, 3.6 mg | [I].[Cu]
product | 2-{5-[1-(3,4-Difluoro-phenyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 39 mg, 37% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C1=CC(=C(C=C1)F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C32H34F5NO2
